US06468998B1
(S)-N-(Pyrrolidin-3-yl)-1-adamantanecarboxamide (0.38 g) and 3-bromopropylbenzene (0.37 g) were reacted under the same conditions as in Example 1 to give (S)-N-(1-(3-phenylpropyl)pyrrolidin-3-yl)-1-adamantanecarboxamide (0.12 g), melting point 118-120° C.

reactant | (S)-N-(Pyrrolidin-3-yl)-1-adamantanecarboxamide | 0.38 g | N1C[C@H](CC1)NC(=O)C12CC3CC(CC(C1)C3)C2 | C15H24N2O
reactant | 3-bromopropylbenzene | 0.37 g | BrCCCC1=CC=CC=C1 | C9H11Br
product | (S)-N-(1-(3-phenylpropyl)pyrrolidin-3-yl)-1-adamantanecarboxamide | 0.12 g | C1(=CC=CC=C1)CCCN1C[C@H](CC1)NC(=O)C12CC3CC(CC(C1)C3)C2 | C24H34N2O
